US07291631B2
Using General Procedure A: Reaction of bis-(3-methyl-pyridin-2-ylmethyl)-amine in CH3CN with 2-cyano-3-bromomethyl-pyridine, KI and DIPEA gave 3-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridine-2-carbonitrile as a dark red oil. 1H NMR (CDCl3) δ 2.04 (s, 6H), 3.86 (s, 4H), 3.99 (s, 2H), 7.07 (m, 2H), 7.38 (m, 3H), 7.84 (d, 1H, J=9.0 Hz), 8.37 (m, 2H), 8.53 (m, 1H).

reactant | bis-(3-methyl-pyridin-2-ylmethyl)-amine | CC=1C(=NC=CC1)CNCC1=NC=CC=C1C | C14H17N3
reactant | 2-cyano-3-bromomethyl-pyridine | C(#N)C1=NC=CC=C1CBr | C7H5BrN2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 3-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridine-2-carbonitrile | CC=1C(=NC=CC1)CN(CC1=NC=CC=C1C)CC=1C(=NC=CC1)C#N | C21H21N5
